US04415572
A mixture of 9.36 g of 6-amino-3,4-dihydrocarbostyril, 18 g of bis(β-bromoethyl)amine monohydrobromide and 70 ml of methanol was refluxed for 15 hours while stirring. After cooling, 3.06 g of sodium carbonate was added and the resulting mixture was refluxed for 8 hours while stirring. The reaction mixture was cooled to precipitate crystals which then were collected by filtration, the crystals were washed with methanol to give 9.1 g of 6-(1-piperazinyl)-3,4-dihydrocarbostyril hydrobromide, m.p. 289°-293° C. (decomp.) (methanol-water), colorless needles.

reactant | 6-amino-3,4-dihydrocarbostyril | 9.36 g | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
reactant | bis(β-bromoethyl)amine monohydrobromide | 18 g | Br.BrCCNCCBr
reactant | sodium carbonate | 3.06 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 70 ml | CO | CH4O
product | 6-(1-piperazinyl)-3,4-dihydrocarbostyril hydrobromide | 9.1 g | Br.N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | InChI=1S/C13H17N3O.BrH/c17-13-4-1-10-9-11(2-3-12(10)15-13)16-7-5-14-6-8-16;/h2-3,9,14H,1,4-8H2,(H,15,17);1H
